US07842696B2
HOBt (125 mg, 0.93 mmol) and DIPEA (287 mg, 2.2 mmol) were added to a stirred solution of 2-bromo-5-methoxy-benzoic acid (171 mg, 0.74 mmol) in DMF (2.5 mL). The mixture was then cooled to 10° C. and EDCI.HCl (178 mg, 0.93 mmol) followed by (2-oxo-2-piperazin-1-yl-ethyl)-carbamic acid tert-butyl ester (200 mg, 0.82 mmol) were added. The reaction mixture was then stirred at room temperature overnight. Water was added, and the product was extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. Purification using column chromatography (silica gel (60-120 mesh) and 50% ethyl acetate in hexane as the eluent) afforded {2-[4-(2-Bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester in 97% yield. LC-MS purity: 97.79%

reactant | HOBt | 0.93 mmol, 125 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.2 mmol, 287 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-5-methoxy-benzoic acid | 0.74 mmol, 171 mg | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | EDCI.HCl | 0.93 mmol, 178 mg | CCN=C=NCCCN(C)C.Cl
reactant | (2-oxo-2-piperazin-1-yl-ethyl)-carbamic acid tert-butyl ester | 0.82 mmol, 200 mg | C(C)(C)(C)OC(NCC(N1CCNCC1)=O)=O | C11H21N3O3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | {2-[4-(2-Bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 97% yield | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)OC)Br)=O)=O | C19H26BrN3O5
